USRE029587
A mixture of 20 g of 7-(α-tetrahydropyranyloxy)-5-heptynoic acid, 12 g of ethanol, 50 cc of benzene and 2 drops of concentrated sulfuric acid was refluxed under nitrogen for 3 hours and after letting the mixture return to room temperature, 20 cc of 12.5% sulfuric acid, 30 cc of ethanol and traces of sodium lauryl sulfate were added thereto. The mixture was stirred overnight at 20° C and was then neutralized with sodium carbonate. The mixture was extracted with ether and the ether extracts were dried and the solvent was evaporated off under reduced pressure. The residue was rectified to obtain 8.5 g of ethyl 7-hydroxy-5-heptynoate identical of that of Step E of Example I.

reactant | sulfuric acid | 20 cc | S(O)(O)(=O)=O | H2O4S
reactant | sodium lauryl sulfate | S(=O)(=O)(OCCCCCCCCCCCC)[O-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 30 cc | C(C)O | C2H6O
reactant | ethanol | 12 g | C(C)O | C2H6O
catalyst | sulfuric acid | 2 drops | S(O)(O)(=O)=O | H2O4S
solvent | benzene | 50 cc | C1=CC=CC=C1 | C6H6
product | ethyl 7-hydroxy-5-heptynoate | 8.5 g | OCC#CCCCC(=O)OCC | C9H14O3
